US05208247
3-Chloro-4-(tetradecyloxy)benzoic acid methyl ester
A mixture of 100.0 g of 3-chloro-4-(hydroxy)benzoic acid methyl ester, 148.6 g of 1-bromotetradecane, 170.4 g of potassium carbonate and 1 L of acetone is heated at reflux temperature for 40.5 hours. The cooled reaction is filtered, concentrated in vacuo and purified by column chromatography (silica gel:0-2% ethyl acetate/hexane) to give 197.1 g of the desired product as colorless crystals.

reactant | 3-chloro-4-(hydroxy)benzoic acid methyl ester | 100.0 g | COC(C1=CC(=C(C=C1)O)Cl)=O | C8H7ClO3
reactant | 1-bromotetradecane | 148.6 g | BrCCCCCCCCCCCCCC | C14H29Br
reactant | potassium carbonate | 170.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 1 L | CC(=O)C | C3H6O
product | 3-Chloro-4-(tetradecyloxy)benzoic acid methyl ester | 197.1 g | COC(C1=CC(=C(C=C1)OCCCCCCCCCCCCCC)Cl)=O | C22H35ClO3
